US08420812B2
3-Hept-1-ynyl-p-tolyl-1H-pyrazolo[3,4-b]pyridine
This product was prepared from toluene-4-sulfonic acid 1-p-tolyl-1H-pyrazolo[3,4-b]pyridin-3-yl ester and 1-heptyne following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/iPr2ether 1:1; yield (110 mg, 73%); 1H NMR δ (CDCl3): 8.63 (m, 1H), 8.19 (m, 1H), 8.10 (d, J=8.55 Hz, 2H), 7.32 (d, J=8.46 Hz, 2H), 7.20-7.27 (m, 1H), 2.53 (t, J=7.23 Hz, 2H), 2.39 (s, 3H), 1.71 (p, J=7.19 Hz, 2H), 1.57-1.46 (m, 2H), 1.45-1.33 (m, 2H), 0.94 (t, J=7.20 Hz, 3H); LCMS m/z: 303.

reactant | toluene-4-sulfonic acid 1-p-tolyl-1H-pyrazolo[3,4-b]pyridin-3-yl ester | C1(=CC=C(C=C1)N1N=C(C=2C1=NC=CC2)OS(=O)(=O)C2=CC=C(C=C2)C)C | C20H17N3O3S
reactant | 1-heptyne | C#CCCCCC | C7H12
solvent | heptane | CCCCCCC | C7H16
product | 3-Hept-1-ynyl-p-tolyl-1H-pyrazolo[3,4-b]pyridine | C(#CCCCCC)C=1C=C(C=CC1N1N=CC=2C1=NC=CC2)C | C20H21N3
